US06573399B1
Under nitrogen gas, diisopropylamine (19.92 g, 196.9 mmol) was added to n-butylmagnesium chloride (1.8 mol/kg, 99.4 g, 179 mmol) over 30 minutes at 40° C. and the mixture was further stirred for 2 hours at the same temperature to prepare a white slurry (liquor A). Separately, under nitrogen gas in another vessel, a solution was prepared from methyl (S)-2-tert-butyloxycarbonylamino-3-phenylpropanoate (10.0 g, 35.8 mmol), dichloromethane (6.09 g, 71.6 mmol) and THF (20 g) (liquor B). To this liquor B was added said liquor A over 1.5 hours at an internal temperature of about 5° C., and the reaction was conducted at 5° C. for 6 hours and at 20° C. for 16 hours. This reaction mixture was poured in a mixture of concentrated hydrochloric acid (43.12 g), water (100 g) and ethyl acetate (50 mL) over 10 minutes for hydrolysis. After phase separation, the organic layer was washed serially with water (100 mL) and saturated sodium hydrogencarbonate/H2O, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure to recover 20.22 g of a reddish brown solid. This solid was recrystallized from ethyl acetate/hexane to provide yellow crystals of tert-butyl (S)-(1-benzyl-3,3-dichloro-2-oxopropyl)carbamate (3.921 g, 98.1 area %, yield 32%).

reactant | diisopropylamine | 196.9 mmol, 19.92 g | C(C)(C)NC(C)C | C6H15N
reactant | n-butylmagnesium chloride | 179 mmol, 99.4 g | C(CCC)[Mg]Cl
reactant | methyl (S)-2-tert-butyloxycarbonylamino-3-phenylpropanoate | 35.8 mmol, 10.0 g | C(C)(C)(C)OC(=O)N[C@H](C(=O)OC)CC1=CC=CC=C1 | C15H21NO4
reactant | dichloromethane | 71.6 mmol, 6.09 g | ClCCl | CH2Cl2
reactant | hydrochloric acid | 43.12 g | Cl | ClH
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 100 g | O | H2O
solvent | THF | 20 g | C1CCOC1 | C4H8O
product | tert-butyl (S)-(1-benzyl-3,3-dichloro-2-oxopropyl)carbamate | 3.921 g, yield 32% | C(C1=CC=CC=C1)[C@@H](C(C(Cl)Cl)=O)NC(OC(C)(C)C)=O | C15H19Cl2NO3
